US07115750B1
N-[6-[(N,N-Dimethylamino)methyl]-5,6,7,8-tetrahydro-2-naphthalenyl]-4′-(hydroxymethyl)[1,1′-biphenyl]-4-carboxamide
N-[6-[(N,N-Dimethylamino)methyl]-5,6,7,8-tetrahydro-2-naphthalenyl]-4′-formyl[1,1′-biphenyl]-4-carboxamide (100 mg, 0.242 mmol) was dissolved in tetrahydrofuran-methanol (1:1) solution (2.4 ml), then sodium borohydride (18.3 mg, 0.485 mmol) was added, which was stirred for 2 hours. Ethyl acetate was added to the reaction mixture, which was washed with saturated aqueous sodium chloride solution, dried using anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The residue was pulverized using ether-n-hexane, to give the titled compound (86 mg) as a white powder.

reactant | N-[6-[(N,N-Dimethylamino)methyl]-5,6,7,8-tetrahydro-2-naphthalenyl]-4′-formyl[1,1′-biphenyl]-4-carboxamide | 0.242 mmol, 100 mg | CN(C)CC1CC=2C=CC(=CC2CC1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C27H28N2O2
reactant | sodium borohydride | 0.485 mmol, 18.3 mg | [BH4-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran-methanol | O1C(CCC1)CO | C5H10O2
product | N-[6-[(N,N-Dimethylamino)methyl]-5,6,7,8-tetrahydro-2-naphthalenyl]-4′-(hydroxymethyl)[1,1′-biphenyl]-4-carboxamide | 86 mg | CN(C)CC1CC=2C=CC(=CC2CC1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CO | C27H30N2O2
